US04582837
8-(2'-Methoxy-4'-methanesulfonylamino-phenyl)-purine
Prepared analogously to Example 14 from 4,5-diaminopyrimidine and 2-methoxy-4-methanesulfonylamino-benzoic acid.

reactant | 4,5-diaminopyrimidine | NC1=NC=NC=C1N | C4H6N4
reactant | 2-methoxy-4-methanesulfonylamino-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)NS(=O)(=O)C | C9H11NO5S
product | 8-(2'-Methoxy-4'-methanesulfonylamino-phenyl)-purine | COC1=C(C=CC(=C1)NS(=O)(=O)C)C1=NC2=NC=NC=C2N1 | C13H13N5O3S
